US04346220
A solution of 22 parts glyoxylic acid in 22 parts water is slowly added to a hot, stirred solution of 32 parts thiocarbohydrazide in 350 parts water. The resulting mixture is refluxed until no further precipitate is formed. Upon cooling, essentially pure 4-amino-2,3-dihydro-3-thiono-as-triazin-5(4H)-one having a melting point of 211°-215° C. is obtained by filtration.

reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | thiocarbohydrazide | NNC(=S)NN | CH6N4S
solvent | water | O | H2O
product | 4-amino-2,3-dihydro-3-thiono-as-triazin-5(4H)-one | NN1C(NN=CC1=O)=S | C3H4N4OS
